### PR TITLE
Add Erdős Problem 121 (sets with no k-fold square products), link Tao's formal disproof

### LINKED ISSUE #6207: Erdős Problem 121
### What is the Erdős problem?

https://www.erdosproblems.com/121

Let $F_{k}(N)$ be the size of the largest $A\subseteq \{1,\ldots,N\}$ such that the product of no $k$ many distinct elements of $A$ is a square. Is $F_5(N)=(1-o(1))N$? More generally, is $F_{2k+1}(N)=(1-o(1))N$?

Status: disproved (Lean). Tao proved $F_k(N) \leq (1-c_k+o(1))N$ for all $k \geq 4$; a formal proof exists in plby/lean-proofs (`Erdos121.erdos_121`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6207.

### What changed
Adds `FormalConjectures/ErdosProblems/121.lean` with `F k N` (largest `A ⊆ {1, …, N}` such that no `k` distinct elements have square product) and:
- `erdos_121` (`research solved`, `answer(False)`): `F₅(N) ~ N`.
- `erdos_121.variants.odd` (`answer(False)`): `F_{2k+1}(N) ~ N` for all `k ≥ 1`.
- `erdos_121.variants.tao`: Tao's theorem `F_k(N) ≤ (1 − c_k) N` for large `N`, `k ≥ 4` [Ta24].
- `erdos_121.variants.three` / `erdos_121.variants.two` (`research solved`): the Erdős–Sárközy–Sós asymptotics for `k = 3, 2`.

The first three are linked to plby/lean-proofs `Erdos121.erdos_121` (Codex and GPT-5.6 Sol; 59 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib (their `Util.Density` is a verbatim copy of `FormalConjecturesForMathlib.Data.Set.Density`, so it was replaced by an import of ours): `#print axioms Erdos121.erdos_121` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the three linked statements on top of a renamed copy, same axioms (plby's `extremalSize` is a `Nat.findGreatest` equal to the `sSup` here; `~ N` is refuted by the eventual `≤ (1 − c) N` bound):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge121

lemma attainable_iff (k N m : ℕ) :
    (∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧
      (∀ S ⊆ A, S.card = k → ¬ IsSquare (∏ n ∈ S, n)) ∧ A.card = m) ↔
    Erdos121Plby.Attainable k N m := by
  simp only [Erdos121Plby.Attainable, Erdos121Plby.IsAdmissible, Erdos121Plby.HasSquareProduct,
    id_eq]
  constructor
  · rintro ⟨A, h1, h2, h3⟩
    exact ⟨A, ⟨h1, fun S hS hc => h2 S hS hc⟩, h3⟩
  · rintro ⟨A, ⟨h1, h2⟩, h3⟩
    exact ⟨A, h1, fun S hS hc => h2 S hS hc, h3⟩

lemma F_eq {k : ℕ} (hk : 0 < k) (N : ℕ) : Erdos121.F k N = Erdos121Plby.extremalSize k N := by
  classical
  unfold Erdos121.F
  simp only [attainable_iff]
  apply le_antisymm
  · apply csSup_le'
    intro m hm
    unfold Erdos121Plby.extremalSize
    exact Nat.le_findGreatest (Erdos121Plby.attainable_le hm) hm
  · exact le_csSup ⟨N, fun m hm => Erdos121Plby.attainable_le hm⟩
      (Erdos121Plby.attainable_extremalSize hk N)

theorem tao_bridge : type_of% Erdos121.erdos_121.variants.tao := by
  intro k hk
  obtain ⟨c, hc, h⟩ := Erdos121Plby.erdos_121 k hk
  exact ⟨c, hc, h.mono fun N hN => by rw [F_eq (by omega)]; exact hN⟩

/-- A function eventually at most `(1 - c) N` with `c > 0` is not asymptotic to `N`. -/
lemma not_isEquivalent {f : ℕ → ℝ} {c : ℝ} (hc : 0 < c)
    (h : ∀ᶠ N : ℕ in atTop, f N ≤ (1 - c) * N) :
    ¬ (f ~[atTop] fun N : ℕ => (N : ℝ)) := by
  intro hequiv
  have hdiv : Tendsto (f / fun N : ℕ => (N : ℝ)) atTop (nhds 1) :=
    (Asymptotics.isEquivalent_iff_tendsto_one (by
      filter_upwards [eventually_gt_atTop 0] with N hN
      exact_mod_cast hN.ne')).1 hequiv
  have hev := hdiv.eventually (lt_mem_nhds (show 1 - c < 1 by linarith))
  obtain ⟨N, hN1, hN2, hN3⟩ := (h.and (hev.and (eventually_gt_atTop 0))).exists
  have hNpos : (0 : ℝ) < N := by exact_mod_cast hN3
  simp only [Pi.div_apply] at hN2
  rw [lt_div_iff₀ hNpos] at hN2
  linarith

theorem erdos_121_bridge : type_of% Erdos121.erdos_121 := by
  show False ↔ _
  simp only [false_iff]
  obtain ⟨c, hc, h⟩ := tao_bridge 5 (by norm_num)
  exact not_isEquivalent hc h

theorem odd_bridge : type_of% Erdos121.erdos_121.variants.odd := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨c, hc, hb⟩ := tao_bridge 5 (by norm_num)
  exact not_isEquivalent hc hb (h 2 (by norm_num))

end Bridge121
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«121»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/121.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/121.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
